US06262058B1
In a sulfonation flask, 2.02 g (0.008 mol) of 2-propoxy-3-propylthieno[3.2-d]pyrimidin-4-one are added, with stirring, to 10 ml of absolute pyridine. The internal temperature is then raised to 70° C. and then 1.60 g (0.012 mol) of N-chlorosuccinimide (NCS) are added over about 5 min in smallish portions. After stirring for 1 hour at 70-75° C., the pyridine is removed in a water-jet vacuum and the residue is taken up in ethyl acetate. The mixture is washed repeatedly with dilute aqueous hydrochloric acid, dried over sodium sulfate and then the solvent is removed in the water-jet vacuum. The crude product so obtained is purified by column chromatography over silica gel (eluant: n-hexane/ethyl acetate=9:1), giving 2.2 g of 7-chloro-2-propoxy-3-propylthieno[3.4-d]pyrimidin-4-one in the form of a green powder having a melting point of 93-95° C.

reactant | 2-propoxy-3-propylthieno[3.2-d]pyrimidin-4-one | 0.008 mol, 2.02 g | C(CC)OC=1N(C(C2=C(N1)C=CS2)=O)CCC | C12H16N2O2S
reactant | N-chlorosuccinimide | 0.012 mol, 1.60 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 7-chloro-2-propoxy-3-propylthieno[3.4-d]pyrimidin-4-one | 2.2 g | ClC=1SC=C2C1N=C(N(C2=O)CCC)OCCC | C12H15ClN2O2S
